Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])=[O:6]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.59381544273
[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-4.44317747865
[H:1][O:2][C:3][C:4]1=[C:5]([H:6])[C:7]1[H:8]>>[H:1][O:2][C:3]#[C:4][C:7](=[C:5][H:6])[H:8],-0.460396663339
[O:1]=[C:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9],4.4770297098
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9]>>[C:1]#[C:2].[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9],7.682000489069999
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1],3.94071442206
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3][C:4]#[C:5][H:6].[O:7]=[C:8]([H:9])[H:10],0.4607694222899999
[C:4][O:5][H:6].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4][O:5][H:6],-2.67194771306
[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[O:1]=[O:2]>>[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],1.09177833241
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][H:7]>>[C:5]#[C:6][H:7].[H:1][C:2]#[C:3][H:4],3.13993644208
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][H:9],8.38429065521
[H:1][C:2].[O:3]=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-2.14386554455
[H:1][C:2]([H:3])[H:4].[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.87831769718
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[H:11]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.54844523929
[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.62575127481
[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6](=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])\[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5],4.19123997446
[H:1][O:2][O:3][C:4]([C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],1.17383897124
[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]/[C:2]([C:3](=[O:4])[H:5])=[C:6](/[H:7])[O:9][H:10].[H:8],4.013507104049999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]1=[C:7]([H:8])[C:9]([H:10])=[C:11]1[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:11]=[C:9](/[C:7](=[C:6][H:12])[H:8])[H:10],1.73611604747
[O:1]=[C:2]([C:3]#[C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([C:3]#[C:4])[C:7]([H:8])([H:9])[H:10].[O:5][H:6],6.93453653197
[H:1][C:2][C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-5.131519365980001
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[H:9],3.62344709813
[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-5.87900704811
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][O:4]/[C:5]=[C:7](\[H:8])[O:9][H:10].[H:6],5.04279301786
[H:1][C:2][O:9][C:10]([H:11])([H:12])[H:13].[O:3]=[C:4]([H:5])[C:6]([H:7])[H:8]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-2.5446797803
[C:6]([H:7])([H:8])=[C:9]=[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]=[O:5]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],2.95922613509
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:6]([H:5])([H:7])[H:13].[O:8]([H:9])[C:10]([H:11])[H:12],3.63516376044
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[O:4],1.32922582935
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9][H:10]>>[C:8]#[C:9][H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7],5.821350091419999
[H:14].[H:1]/[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])=[C:12](/[H:13])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.50807761841
[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[O:1]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-2.73052583981
